US04366158
A solution of 8-aminoquinoline (14.4 g, 0.1 mole) and triethylamine (15 ml, 0.11 mole) in dry tetrahydrofuran (50 ml) was treated dropwise at 0° (under a nitrogen atmosphere) with a solution of acryloyl chloride (8.5 ml, 0.1 mole) in tetrahydrofuran (25 ml). The reaction was filtered and the filtrate was partitioned between methylene chloride and water. The organic phase was separated, dried over sodium sulphate and concentrated to an oil. The oil was dissolved in ethyl acetate, treated with charcoal, filtered and again concentrated by vacuum distillation to an oil. Seed crystals were added and the oil cooled to -18°. The solid mass was stirred with petroleum ether and filtered affording 15.7 g of crude product of sufficient purity for further synthetic steps. Recrystallization from acetone/pentane afforded N-(8-quinolyl)-2-propenamide of analytical purity (m.p. 76.5°-78.5°).

reactant | 8-aminoquinoline | 0.1 mole, 14.4 g | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | triethylamine | 0.11 mole, 15 ml | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 0.1 mole, 8.5 ml | C(C=C)(=O)Cl | C3H3ClO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | N-(8-quinolyl)-2-propenamide | N1=CC=CC2=CC=CC(=C12)NC(C=C)=O | C12H10N2O
